US06284821B1
a) 2,4,6-Tris(2′-hydroxy-4′-isopropyloxyphenyl)-1,3,5-triazine (Comp. int.1)
A mixture of 50.0 g (0.123 mol ) of 2,4,6-tris(2′,4′-dihydroxyphenyl)-1,3,5-triazine, 54.6 g (0.395 mol) of potassium carbonate, 1.0 g (0.006 mol) of potassium iodide (Merck, 99.0%) and 50.1 g (0.407 mol) of isopropyl bromide (Fluka, 99.0%) in 200 ml of diethylene glycol dimethyl ether (Diglyme, Merck, >99%) is held with stirring at 140° C. under a pressure of 3.8 bar for 24 h.

reactant | 2,4,6-tris(2′,4′-dihydroxyphenyl)-1,3,5-triazine | 0.123 mol, 50.0 g | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=C(C=C(C=C1)O)O | C21H15N3O6
reactant | potassium carbonate | 0.395 mol, 54.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.006 mol, 1.0 g | [I-].[K+]
reactant | isopropyl bromide | 0.407 mol, 50.1 g | C(C)(C)Br | C3H7Br
solvent | diethylene glycol dimethyl ether | 200 ml | COCCOCCOC | C6H14O3
product | 2,4,6-Tris(2′-hydroxy-4′-isopropyloxyphenyl)-1,3,5-triazine | OC1=C(C=CC(=C1)OC(C)C)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OC(C)C)O)C1=C(C=C(C=C1)OC(C)C)O | C30H33N3O6
